US06933387B2
b) (R)-7-Bromo-1-(2-tert-butoxycarbonylamino-1-methyl-ethyl)-5-fluoro-1H-indole-2-carboxylic acid ethyl ester
The title compound, ISP-MS: m/e=(M+H+), was prepared in accordance with the general method of example 12b) from 7-bromo-5-fluoro-1H-indole-2-carboxylic acid ethyl ester (10.0 g, 0.035 mol) and (S)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester 10 g, 0.042 mol). The product was isolated as a viscous yellow oil, (10.1 g, 65%); ISP MS: 445.3 (M+H)+

reactant | 7-bromo-5-fluoro-1H-indole-2-carboxylic acid ethyl ester | 0.035 mol, 10.0 g | C(C)OC(=O)C=1NC2=C(C=C(C=C2C1)F)Br | C11H9BrFNO2
reactant | (S)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester | 0.042 mol, 10 g | C(C)(C)(C)OC(=O)N1S(O[C@H](C1)C)(=O)=O | C8H15NO5S
product | (R)-7-Bromo-1-(2-tert-butoxycarbonylamino-1-methyl-ethyl)-5-fluoro-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=C(C=C(C=C2C1)F)Br)[C@@H](CNC(=O)OC(C)(C)C)C | C19H24BrFN2O4
